US09227975B2
To a methanol (1 mL) solution of (S)—N-(6-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-hydroxypyrrolidine-1-carboxamide (10.1 mg, 0.0236 mmol) was added HCl as a solution is dioxane (30 μL). After minutes, the reaction was concentrated to provide (S)—N-(6-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-hydroxypyrrolidine-1-carboxamide hydrochloride as a yellow solid.

reactant | methanol | 1 mL | CO | CH4O
reactant | (S)—N-(6-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-hydroxypyrrolidine-1-carboxamide | 0.0236 mmol, 10.1 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)NC(=O)N2C[C@H](CC2)O | C21H22F2N6O2
reactant | HCl | Cl | ClH
solvent | dioxane | 30 μL | O1CCOCC1 | C4H8O2
product | (S)—N-(6-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-3-hydroxypyrrolidine-1-carboxamide hydrochloride | Cl.FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)NC(=O)N2C[C@H](CC2)O | InChI=1S/C21H22F2N6O2.ClH/c22-13-3-4-16(23)15(10-13)17-2-1-8-28(17)19-6-5-18-24-11-20(29(18)26-19)25-21(31)27-9-7-14(30)12-27;/h3-6,10-11,14,17,30H,1-2,7-9,12H2,(H,25,31);1H/t14-,17+;/m0./s1
